US05705531
(1S,3aS,5S,7aR)-1-[(E)-2-Aminoethoxyimino]methyl-5-phenyl-7a-methylperhydroinden-3a-ol (I-am)
To a solution of 6.30 g of 0.12 g of 2-aminoethoxyamine dihydrochloride, 0.28 g of sodium acetate in 2 ml of dioxane and 1 ml of water was made aid to pH 4.5 with 3N HCl. A solution of 0.20 g of (1S,3aS,5S,7aR)-1-formyl-5-phenyl -7a-methylperhydroinden-3a-ol in 1 ml of dioxane and 0.5 ml of water was added dropwise at room temperature. After 1 hr the solution was alkalinized with 10% aqueous Na2CO3 and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated to dryness. The crude product was ground with diethyl ether to give 0.17 g of the title compound (I-am) as a white solid.

reactant | 2-aminoethoxyamine dihydrochloride | 6.30 g | Cl.Cl.NCCON
reactant | sodium acetate | 0.28 g | C(C)(=O)[O-].[Na+]
reactant | HCl | 3N | Cl | ClH
reactant | (1S,3aS,5S,7aR)-1-formyl-5-phenyl -7a-methylperhydroinden-3a-ol | 0.20 g | C(=O)[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=CC=C1)O | C17H22O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
product | (1S,3aS,5S,7aR)-1-[(E)-2-Aminoethoxyimino]methyl-5-phenyl-7a-methylperhydroinden-3a-ol | 0.17 g | NCCO\N=C\[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=CC=C1)O | C19H28N2O2
